US06887889B2
To a stirred solution of 4-aminomethyl-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (0.10 g, 0.24 mmol) in CH2Cl2 (1.0 mL) at room temperature under Ar was added isobutyl chloroformate(0.033 mL, 0.26 mmol, 1.1 eq.) followed by pyridine (0.25 mL). The mixture was stirred at room temperature for 16 h, diluted with EtOAc (5 mL), washed with saturated aqueous NaHCO3 (5 mL) and saturated brine (5 mL) and dried over Na2SO4. Filtration and rotary evaporation gave the crude 4-(4-iodo-phenyl)-4-(isobutoxycarbonylamino-methyl)-piperidine-1-carboxylic acid tert-butyl ester as a yellow oil (0.075 g, 0.15 mmol, ˜62%). 1H NMR (300 MHz, CDCl3): δ 7.81 (d, 2H), 7.15 (d, 2H), 4.42 (br.t, 1H), 3.88 (d, 2H), 3.79 (m, 2H), 3.42 (br.m, 2H), 3.25 (br.t, 2H), 2.13 (br.m, 3H), 1.88 (m, 3H), 1.54 (s, 9H), 0.99 (d, 6H). MS: 417 (M−Boc).

reactant | 4-aminomethyl-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.24 mmol, 0.10 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)I)CN | C17H25IN2O2
reactant | isobutyl chloroformate | 0.26 mmol, 0.033 mL, 1.1 eq. | ClC(=O)OCC(C)C | C5H9ClO2
reactant | pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 4-(4-iodo-phenyl)-4-(isobutoxycarbonylamino-methyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.15 mmol, 0.075 g, ~62% | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNC(=O)OCC(C)C)C1=CC=C(C=C1)I | C22H33IN2O4
